US06503949B1
Under a nitrogen atmosphere, thionylchloride (4ml, 58 mmol) and methanesulphonic acid (9 mL, 146 mmol) were refluxed for 90 min. 4-Nitrotoluene (4 g, 29 mmol) and triflouromethanesulphonic acid (200 uL, 3 mmol) were added and the mixture was allowed to stand for 48 hours at 120° C. The mixture was cooled to 0° C. and water (50 mL) was carefully added, followed by addition of ethyl acetate (150 mL). The organic phase was separated and extracted with a saturated solution of sodium hydrogencarbonate (2×50 mL) and water (2×50 mL). The organic phase was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (heptane/ethylacetate, 1:1) to give 0.75 g of 2-methylsulfonyl-1-methyl-4-nitrobenzene.

reactant | thionylchloride | 58 mmol, 4ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanesulphonic acid | 146 mmol, 9 mL | CS(=O)(=O)O | CH4O3S
reactant | 4-Nitrotoluene | 29 mmol, 4 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | triflouromethanesulphonic acid | 3 mmol, 200 uL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 2-methylsulfonyl-1-methyl-4-nitrobenzene | 0.75 g | CS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C8H9NO4S
